US06683096B2
A. Preparation of 2-(2-chloro-ethoxy)-5-methyl-benzoic acid ethyl ester
This compound was prepared following the procedure described in Example 1 (part C) starting with 5 g (27.8 mmol) of 2-hydroxy-5-methyl-benzoic acid ethyl ester, 7.9 mL (55.5 mmol) of 1-bromo-2-chloro-ethane and 7.7 g (55.5 mmol) of potassium carbonate. After the work-up and purification, 4.5 g (68% of yield) of the desired product was obtained.

reactant | 2-hydroxy-5-methyl-benzoic acid ethyl ester | 27.8 mmol, 5 g | C(C)OC(C1=C(C=CC(=C1)C)O)=O | C10H12O3
reactant | 1-bromo-2-chloro-ethane | 55.5 mmol, 7.9 mL | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 55.5 mmol, 7.7 g | C([O-])([O-])=O.[K+].[K+]
product | 2-(2-chloro-ethoxy)-5-methyl-benzoic acid ethyl ester | C(C)OC(C1=C(C=CC(=C1)C)OCCCl)=O | C12H15ClO3
